**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 6
* SIMULATION TYPE: dc_list
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/calibration/src/templates/mosfet_level_1/nmos/dut.cir

** Start testbenches

********************* dut testbench 1_4 *********************
e_ds_1_4 d_1_4 0 v_sweep 0 1
v_gs_1_4 g_1_4 0 1.0
v_s_1_4 s_1_4 0 0
v_bs_1_4 b_1_4 0 0.0
x_1_4 d_1_4 g_1_4 s_1_4 b_1_4 dut w=1e-05 l=1e-05 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut vto = 0.5560696417388288
alterparam dut kp = 0.00022973654374805466
alterparam dut gamma = 0.02895741901434129
alterparam dut phi = 0.05791483802868258
alterparam dut rd = 1.4278982751990845
alterparam dut rs = 0.11582967605736516
alterparam dut cbd = 1.484336816360469e-19
alterparam dut cbs = 1.8904523865005416e-20
alterparam dut is = 1.8328582900325297e-15
alterparam dut pb = 0.7902812684659888
alterparam dut cgso = 3.794446032038467e-20
alterparam dut cgdo = 1.3320956719293494e-18
alterparam dut cgbo = 2.36720991735245e-17
alterparam dut rsh = 5.6902562132561325
alterparam dut cj = 6.073727792518479e-07
alterparam dut mj = 0.3313971778070685
alterparam dut cjsw = 2.5433367473226856e-15
alterparam dut mjsw = 0.05791483802868258
alterparam dut tox = 2.62456449268145e-07
alterparam dut nsub = 8.020695857269856e+17
alterparam dut nss = 569044731273731.6
alterparam dut nfs = 11524517181.039333
alterparam dut tpg = 2.6909747893168894
alterparam dut xj = 3.794446032038483e-15
alterparam dut ld = 3.0563904911705027e-09
alterparam dut uo = 458.4213508018038
alterparam dut vmax = 1467.6005787759975
alterparam dut kf = 3.794446032038467e-30
alterparam dut af = 0.2895741901434129
alterparam dut fc = 2.650009826950765
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_1_4) v(d_1_4)

** Write the header of the results file.
echo "i(v_s_1_4),v(d_1_4)" > /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:50:19/simulation_files/dc_list_6.csv

** Start the simulation loop.
set values_list = ( 0.0 0.2 0.3 0.4 0.5 0.6 0.7 0.8 0.9 1.0 1.1 1.2 1.3 1.4 1.5 1.6 )
foreach val $values_list
    alter v_sweep $val
    op
    echo "$&i(v_s_1_4),$&v(d_1_4)" >> /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:50:19/simulation_files/dc_list_6.csv
end

.endc
********** End of control section **********

.end